US04920120
Ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylate
To a cold (5° C.) solution of 2.77 g (6.64 mmol) of ethyl 3-(2,4-difluoroanilino)-2-(2,3,4,5-tetrafluoro-6-methylbenzoyl)acrylate in 60 ml of dry THF was added 0.32 g of 60% sodium hydride. The solution was stirred overnight at room temperature, then concentrated to an orange foam. The residue was partitioned between methylene chloride and 1N HCl. The organic phase was washed with water, dried over magnesium sulfate, and concentrated to an orange solid which was recrystallized (ethyl acetate:hexane) to give 1.55 g of the title compound, mp 152°-154° C.

reactant | ethyl 3-(2,4-difluoroanilino)-2-(2,3,4,5-tetrafluoro-6-methylbenzoyl)acrylate | 6.64 mmol, 2.77 g | FC1=C(NC=C(C(=O)OCC)C(C2=C(C(=C(C(=C2C)F)F)F)F)=O)C=CC(=C1)F | C19H13F6NO3
reactant | sodium hydride | 0.32 g | [H-].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | Ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylate | 1.55 g | FC=1C(=C2C(C(=CN(C2=C(C1F)F)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)C | C19H12F5NO3
